US07691892B2
General Procedure: Nucleophilic Displacement with 2-Chloro-3-Cyano-Pyrazine
Piperazine (1.5 mmol) and 2-chloro-3-nitro-pyridine (1 mmol) were dissolved in acetonitrile (3 mL) and stirred for 30 min at 85° C. The reaction mixture was diluted with dichloromethane and washed with water. The organic layer was isolated, washed with brine, dried over anhydrous Na2SO4 and concentrated in vacuo. The product was purified (SPE column chromatography, silica gel, 0-10% methanol in ethyl acetate).

reactant | Piperazine | 1.5 mmol | N1CCNCC1 | C4H10N2
reactant | 2-chloro-3-nitro-pyridine | 1 mmol | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Chloro-3-Cyano-Pyrazine | ClC1=NC=CN=C1C#N | C5H2ClN3
